US04331803
Each fraction was analyzed by thin layer chromatography (E. Merck Darmstadt. thin layer chromatography plate silica gel 60 silanized precoated, thickness 0.25 mm), developing in a mixture of methanol and a 0.1 M phosphate buffer solution (pH 7.0) (3:2). The fractions having Rf value 0.42 (c.f., erythromycin A, Rf value 0.46) were combined and most of the methanol was evaporated in vacuo. The residue was made alkaline with sodium carbonate and extracted with chloroform. The chloroform layer was washed with water, dried and concentrated in vacuo. The crystals obtained were recrystallized from a mixture of chloroform and diisopropyl ether (1:2), giving 700 mg of pure 6-O-methylerythromycin A (formula(I), R1 is hydrogen) in the form of colorless needles.

reactant | phosphate | 0.1 M, pH 7.0 | P(=O)([O-])([O-])[O-]
reactant | erythromycin A | CC[C@@H]1[C@@]([C@@H]([C@H](C(=O)[C@@H](C[C@@]([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)O)(C)O)C)C)O)(C)O | C37H67NO13
reactant | methanol | CO | CH4O
product | 6-O-methylerythromycin A | 700 mg | CC[C@@H]1[C@@]([C@@H]([C@H](C(=O)[C@@H](C[C@@]([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)O)(C)OC)C)C)O)(C)O | C38H69NO13
